US07851484B2
6-Chloro-1-(pentan-3-yl)-7-(prop-1-en-2-yl)-1H-imidazo[4,5-b]pyridin-2-ol:
6-Chloro-7-iodo-1-(pentan-3-yl)-1H-imidazo[4,5-b]pyridin-2-ol (25 mg, 0.068 mmol) was added to a dried microwave tube, followed by 4,4,5,5-tetramethyl-2-(prop-1-en-2-yl)-1,3,2-dioxaborolane (20 uL, 0.102 mmol), PdCl2(dppf) (5 mg, 0.0068 mmol), K2CO3 (33 mg, 0.238 mmol), dioxane (3 mL) and water (0.5 mL). The resulting mixture was heated in the microwave at 135° C. for 20 minutes. LCMS showed the starting material was consumed. To the reaction mixture was added saturated NaHCO3 (50 ml), and the product was extracted with ethyl acetate (2×50 mL). The combined organic layer was washed with brine (50 mL) and concentrated. The crude product was flushed through silica gel plug and then purified by reverse phase HPLC to give 19 mg of the title compound as a white powder. m/z=280.20 [M+H]+

reactant | 6-Chloro-7-iodo-1-(pentan-3-yl)-1H-imidazo[4,5-b]pyridin-2-ol | 0.068 mmol, 25 mg | ClC=1C(=C2C(=NC1)N=C(N2C(CC)CC)O)I | C11H13ClIN3O
reactant | 4,4,5,5-tetramethyl-2-(prop-1-en-2-yl)-1,3,2-dioxaborolane | 0.102 mmol, 20 uL | CC1(OB(OC1(C)C)C(=C)C)C | C9H17BO2
reactant | K2CO3 | 0.238 mmol, 33 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.0068 mmol, 5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 0.5 mL | O | H2O
product | 6-Chloro-1-(pentan-3-yl)-7-(prop-1-en-2-yl)-1H-imidazo[4,5-b]pyridin-2-ol | 19 mg | ClC=1C(=C2C(=NC1)N=C(N2C(CC)CC)O)C(=C)C | C14H18ClN3O
